US05093332
Titanium trichloride (256 ml, 15 wt % in 20-30 wt % HCl) was added in a steady stream to a stirred suspension of 5-(2,3-dicarboxypropylthio)-4-nitrothiophene-2-sulfonamide (21.8 g, 61.0 mmol) in water (128 ml) and acetic acid (128 ml). This mixture was stirred at ambient temperature for 18 hours and the yellow solid that precipitated was collected by filtration, washed with water and dried to yield 17.6 g. Chromatography over silica gel using chloroform/methanol/conc. aqueous ammonia (60:30:10; v/v/v) followed by recrystallization from water gave 3-carboxymethyl-2,3-dihydro-2-oxo-6-sulfamoyl-1H-thieno-[2,3-b][1,4]thiazine, mp 240° C.

reactant | 5-(2,3-dicarboxypropylthio)-4-nitrothiophene-2-sulfonamide | 61.0 mmol, 21.8 g | C(=O)(O)C(CSC1=C(C=C(S1)S(=O)(=O)N)[N+](=O)[O-])CC(=O)O | C9H10N2O8S3
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | water | 128 ml | O | H2O
solvent | acetic acid | 128 ml | C(C)(=O)O | C2H4O2
catalyst | Titanium trichloride | 256 ml | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 3-carboxymethyl-2,3-dihydro-2-oxo-6-sulfamoyl-1H-thieno-[2,3-b][1,4]thiazine | C(=O)(O)CC1C(NC2=C(S1)SC(=C2)S(N)(=O)=O)=O | C8H8N2O5S3
